US03984548
Using the method of Example 1, diethyl ethoxymethylene malonate is reacted with 6-chloro-3,4-dihydro-3-methyl-2H-1,4-benzoxazine and the product reacted with polyphosphoric acid to provide ethyl 8-chloro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylate, m.p. 205°-206° C.

reactant | diethyl ethoxymethylene malonate | CCOC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | 6-chloro-3,4-dihydro-3-methyl-2H-1,4-benzoxazine | ClC=1C=CC2=C(NC(CO2)C)C1 | C9H10ClNO
product | ethyl 8-chloro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylate | ClC1=CC=C2C=3N(C(CO2)C)C=C(C(C13)=O)C(=O)OCC | C15H14ClNO4
